US05194619
4-Methyl-7-phenylindene (8)
5 g (0.21 mol}of sodium were dissolved in 100 ml of methanol in a Schlenk tube and the solution was cooled to 0° C. A mixture of 15.8 g (0.84 mol) of 1-phenyl-1,4-pentanedione and 7.3 ml (5.8 g, 0.08 mol) of cyclopentadiene was added dropwise in the course of 15 minutes. The red solution was stirred at room temperature overnight, hydrolyzed with 200 ml of water and extracted five times with 75 ml of petroleum ether each time. The combined organic extracts were filtered and concentrated to dryness and the residue was subjected to fractional distillation.

reactant | sodium | [Na] | Na
reactant | 1-phenyl-1,4-pentanedione | 0.84 mol, 15.8 g | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
reactant | cyclopentadiene | 0.08 mol, 7.3 ml, 5.8 g | C1=CC=CC1 | C5H6
reactant | water | 200 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-Methyl-7-phenylindene | CC1=C2C=CCC2=C(C=C1)C1=CC=CC=C1 | C16H14
